US04889953
2-[2-[2-(Acetoacetyloxy)-3-(octadecyloxy)propyloxy]ethoxy]ethyltrimethylammonium chloride
1.5 g (2.94 millimole) of 2-[2-[2-hydroxy-3-(octadecyloxy)propyloxy]ethoxy]ethyltrimethylammonium chloride was dissolved in 80 ml of pyridine, to which 2 ml of diketene was added, and the mixture was stirred at 45° C. for 5 minutes. 10 ml of ethanol was added thereto, and the mixture was concentrated to dryness under reduced pressure. The residue was purified by silica gel column chromatography (Merck Co., Art.7734, 38 g, Eluant; chloroform-methanol=4:1-2:1), to give 1.5 g (86%) of the above-captioned compound.

reactant | 2-[2-[2-hydroxy-3-(octadecyloxy)propyloxy]ethoxy]ethyltrimethylammonium chloride | 2.94 millimole, 1.5 g | [Cl-].OC(COCCOCC[N+](C)(C)C)COCCCCCCCCCCCCCCCCCC
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | diketene | 2 ml | C=C1CC(=O)O1 | C4H4O2
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-[2-(Acetoacetyloxy)-3-(octadecyloxy)propyloxy]ethoxy]ethyltrimethylammonium chloride | 1.5 g, 86% | [Cl-].C(CC(=O)C)(=O)OC(COCCOCC[N+](C)(C)C)COCCCCCCCCCCCCCCCCCC | InChI=1S/C32H64NO6.ClH/c1-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-23-37-28-31(39-32(35)27-30(2)34)29-38-26-25-36-24-22-33(3,4)5;/h31H,6-29H2,1-5H3;1H/q+1;/p-1
